### ISSUE TITLE
Refutations from 3-element magmas

### ISSUE THREAD

**Issue by danielvarga** [teorth/equational_theories#50]
I have python repo https://github.com/danielvarga/magmas that refutes 11,814,111 implications by 3-element counterexamples. I'd like to create a PR here, but as a first-time contributor, let me first ask for suggestions. **First of all, where to put this code? Second, what's the most useful way to interface with the Lean efforts?** For example, with some more effort and compute, I could provide an 4694 x 4694 x 3 x 3 array with all the counterexamples. (With some special value for "no counterexample for that implication".) Would that work?

It first writes up the boolean matrix S indexed by (equation, magma), for each 3-element magma, and works from there. (S stands for satisfied.) https://terrytao.wordpress.com/2024/09/25/a-pilot-project-in-universal-algebra-to-explore-new-ways-to-collaborate-and-use-machine-assistance/comment-page-1/#comment-685911 gives a bit more info.

The code can create Hasse diagrams (https://static.renyi.hu/ai-shared/daniel/tmp/hasse.html) and the pixel art thing (https://static.renyi.hu/ai-shared/daniel/magmas/implications_3.png).

It's a result of a one-day hackathon between me and ChatGPT, so there are lots of low hanging fruits:

- [ ] Code needs huge refactor/cleanup. (I'll definitely do this before submitting the PR.)
- [ ] Only deals with the 4347 4-variable equations.
- [ ] Hasse diagram creation code is half-finished.

Less low-hanging:
- [ ] Could use parallelization and batch-processing to make it work for 4-element magmas.
- [ ] Could calculate the 4694 x 4694 x 3 x 3 counterexample grid I have mentioned above.
- [ ] At the heart of it, there's a huge Einstein summation. For each formula like x+(y+z), it executes one Einstein summation for each binary operation, vectorized over all magmas. In principle, the whole formula could be evaluated with a single crazy big Einstein summation. That's a TODO item, but I don't know how much would that speed things up.

**Comment by teorth** [comment]
Just wanted to say that we just started creating some guidelines for submission at https://github.com/teorth/equational_theories/blob/main/CONTRIBUTING.md which may answer some of your questions.  In particular if your code can generate a large file of `proof_wanted` claims, that can be output as a Lean file in the generated folder, while your code can be placed in the scripts folder, and a description of the code as a blueprint chapter.

**Comment by few** [comment]
Hi. I have a similar program that searched N=2 and N=3. I Haven't submitted any result yet, because I think there will be considerable overlap with #19 (or it might even be a strict subset). Instead I'm currently playing with ways to extend the program to N=4. What might be of interest to you and what I'd like to have feedback on is the lean proof template that I'm using. Her is an example:
```
import Mathlib.Tactic
import equational_theories.Magma
import equational_theories.AllEquations
import Mathlib.Data.Fin.Basic

set_option linter.unusedTactic false

theorem Equation52_not_implies_Equation378 : ∃ (G: Type) (_: Magma G), Equation52 G ∧ ¬ Equation378 G := by
  let G := Fin 4
  let hG : Magma G := {
      op := fun x y ↦ match x, y with
        | 0, 0 => 3
        | 0, 1 => 0
        | 0, 2 => 0
        | 0, 3 => 1
        | 1, 0 => 1
        | 1, 1 => 2
        | 1, 2 => 3
        | 1, 3 => 1
        | 2, 0 => 0
        | 2, 1 => 2
        | 2, 2 => 3
        | 2, 3 => 1
        | 3, 0 => 3
        | 3, 1 => 2
        | 3, 2 => 3
        | 3, 3 => 1
  }
  refine ⟨G, hG, ?eq52, ?neq378⟩
  ·
    intro x y
    fin_cases x <;>
    fin_cases y <;>    
    all_goals simp [hG]
  ·
    intro h
    specialize h 2 0
    simp [hG] at h
    try { exact Fin.ne_of_val_ne (by decide) h }
```

I only switch out the equation numbers, the table and the counter example at the bottom.

**Comment by carlini** [comment]
I've completely solved N=4 via brute force. This generates just ~500k unique tables that need to be converted into Lean. Almost all of these are already covered by #19, but this gives an extra 0.9% set of refutations that weren't found previously. I can start a PR that has the code to do this and let someone pick up where I left off.

**Comment by nomeata** [comment]
I believe this is subsumed by existing work now, is it?

**Comment by danielvarga** [comment]
@nomeata: yes, it is subsumed by existing work.
